US04943580
A mixture of 2.4 parts of 2-bromo-5-methyl-1,3,4-thiadiazole, 5 parts of N-[1-(2-aminoethyl)-4-piperidinyl]-3-(2-ethoxyethyl)-3H-imidazo[4,5-b]pyridin-2-amine, 1.6 parts of sodium carbonate and 47 parts of N,N-dimethylacetamide was stirred overnight at 120° C. After cooling, the reaction mixture was poured into water and the product was extracted with trichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (97:3 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the ethanedioate salt in ethanol. The salt was filtered off and dried, yielding 1.23 parts (13.2%) of 3-(2-ethoxyethyl)-N-[1-[2-[(5-methyl-1,3,4-thiadiazol-2-yl)amino]ethyl]-4-piperidinyl]-3H-imidazo[4,5-b]pyridin-2-amine ethanedioate(1:2), hemihydrate; mp. 197.3° C. (compound 129). In a similar manner there is also prepared:

reactant | 2-bromo-5-methyl-1,3,4-thiadiazole | BrC=1SC(=NN1)C | C3H3BrN2S
reactant | N-[1-(2-aminoethyl)-4-piperidinyl]-3-(2-ethoxyethyl)-3H-imidazo[4,5-b]pyridin-2-amine | NCCN1CCC(CC1)NC1=NC=2C(=NC=CC2)N1CCOCC | C17H28N6O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 3-(2-ethoxyethyl)-N-[1-[2-[(5-methyl-1,3,4-thiadiazol-2-yl)amino]ethyl]-4-piperidinyl]-3H-imidazo[4,5-b]pyridin-2-amine ethanedioate | 13.2% | C(C(=O)O)(=O)O.C(C)OCCN1C(=NC=2C1=NC=CC2)NC2CCN(CC2)CCNC=2SC(=NN2)C | InChI=1S/C20H30N8OS.C2H2O4/c1-3-29-14-13-28-18-17(5-4-8-21-18)24-19(28)23-16-6-10-27(11-7-16)12-9-22-20-26-25-15(2)30-20;3-1(4)2(5)6/h4-5,8,16H,3,6-7,9-14H2,1-2H3,(H,22,26)(H,23,24);(H,3,4)(H,5,6)
